### PR TITLE
Refactor diagonals

### PR DESCRIPTION
**Pull request by fredrik-bakke**
- Renames `diagonal` to `diagonal-product`, and `diagonal-maps-of-types` to `diagonal-maps-cartesian-products-of-types`
- Defines `diagonal-exponential A X : A -> X -> A` in a file `diagonal-maps-of-types`

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
I'm open to renaming suggestions for `diagonal-product`, `diagonal-exponential` and their files `diagonal-maps-cartesian-products-of-types` and `diagonal-maps-of-types`.

**Comment by EgbertRijke** [comment]
I'm experimenting with having

```agda
const' : {l1 l2 : Level} (A : UU l1) (B : UU l2) → B → A → B
const' A B b x = b

const : {l1 l2 : Level} {A : UU l1} {B : UU l2} → B → A → B
const = const' _ _
```

in the library.

In most cases Agda can infer _both_ types. Typical places where Agda can't infer both types is when we assert something about a constant map in the type specification of an entry, but this doesn't have to rule our design choice. 

The other reason why I think it is worth considering this option, is that I want to avoid creating inbalances in which arguments are made implicit and which aren't. In the case for many entries about commuting triangles it was a great pain to maintain the entries where the choice of implicit arguments was based on "what agda can infer", implying that the choice was varying a lot and it was extremely hard to keep track of what arguments Agda was expecting. This experience makes me wary about making one type explicit and one type implicit in `const`, even though I am aware that in the case at hand it won't be as painful to maintain `const` if only the codomain is implicit. I just think that from a maintainers perspective, it is not good to let Agda dictate what arguments should be implicit based but we should make that decisions as library designers based on what argument could be logically grouped together.

Moreover, it turns out that in fact Agda can infer _both_ types in most cases, the same way that Agda can infer the element at which `refl-htpy` is taken in a proof. In this case we also have both `refl-htpy` and `refl-htpy'`, where the latter is mostly used in type specifications of entries when the function cannot be inferred.

Sorry for the long story:P

**Comment by EgbertRijke** [comment]
I completed my experiment in #1097. I think it works well to have both type arguments of `const` implicit.

If you agree with that change, then I can close that pull request again and let you make that change here. I don't want that pull request to cause troubles with your work here by merging it, so I'd rather delete it.

**Comment by fredrik-bakke** [comment]
That's interesting, because I changed which arguments are implicit for `const` based on how I would want people to use the constant function, and not based on what Agda can and cannot infer. If they wish to pass both types, it seems likely to me that they should be using `diagonal-exponential` instead.

**Comment by fredrik-bakke** [comment]
Meaning I currently disagree with defining `const'` as you suggest

**Comment by EgbertRijke** [comment]
> Meaning I currently disagree with defining `const'` as you suggest

We can omit `const'` from my suggestion, and use `diagonal-exponent` instead. Do you agree to make both type arguments in `const` implicit, or is that suggestion also problematic to you?

**Comment by EgbertRijke** [comment]
> > I just think that from a maintainers perspective, it is not good to let Agda dictate what arguments should be implicit based but we should make that decisions as library designers based on what argument could be logically grouped together.
> 
> The way I'm reading this is in contradiction with the coding style. Quoting https://unimath.github.io/agda-unimath/CODINGSTYLE.html#guidelines-for-definitions-in-the-agda-unimath-libraryhttps://unimath.github.io/agda-unimath/CODINGSTYLE.html#guidelines-for-definitions-in-the-agda-unimath-library:
> 
> **Implicit arguments**: If an argument can be inferred in most use cases, make it implicit.
> 
> Should the guideline be edited to not make this very direct blanket statement?

Perhaps the guideline should be edited, but:
- It should be understood that if a guideline leads to bad experiences, as I described above, then we can adjust.
- In this particular case both arguments of `const` could typically be inferred.

**Comment by fredrik-bakke** [comment]
> > Meaning I currently disagree with defining `const'` as you suggest
> 
> We can omit `const'` from my suggestion, and use `diagonal-exponent` instead. Do you agree to make both type arguments in `const` implicit, or is that suggestion also problematic to you?

Well, I'm unsure. I find the suggestion for `const` unintuitive. It seems to me like users will have to specify the exponent in _some_ cases, and I like having a uniform construction for it. I am guessing you want `const` to behave the same way as `point`? If one on the other hand wants it to be similar to `precomp`, then one does want the type to be explicit (although I realize in the opposite order of the current one)

**Comment by fredrik-bakke** [comment]
Ah, but you are right. The use cases I have in mind where I want `const` to look like `precomp` are already covered by `diagonal-exponent`.

**Comment by fredrik-bakke** [comment]
Here's an instance where Agda is not able to infer the exponent:

image

**Comment by EgbertRijke** [comment]
> Here's an instance where Agda is not able to infer the exponent:
> 
> image

Wouldn't this code be conceptually clearer if it was dependent postcomposition with a diagonal?

**Comment by fredrik-bakke** [comment]
> Wouldn't this code be conceptually clearer if it was dependent postcomposition with a diagonal?

While I'm not sure in that particular scenario, here's another one where it seems appropriate to use `const`, but that doesn't work.

image

**Comment by fredrik-bakke** [comment]
To be honest, it still seems to me that the current implementation in this branch is the best one.

**Comment by EgbertRijke** [comment]
Ok, thank you for exploring the other option with me. We'll go with your solution.

**Comment by fredrik-bakke** [comment]
> Ok, thank you for exploring the other option with me. We'll go with your solution.

No worries, thanks for looking into it and discussing it with me!

File: src/foundation/surjective-maps.lagda.md [hunk 1]
```diff
@@ -317,13 +317,13 @@ module _
...
-            const (type-trunc-Prop (fiber f y)) (type-Prop (P y)) (h y)))
+            const (type-trunc-Prop (fiber f y)) (h y)))
         ( is-equiv-comp
           ( λ h y → (h y) ∘ unit-trunc-Prop)
-          ( λ h y → const (type-trunc-Prop (fiber f y)) (type-Prop (P y)) (h y))
+          ( λ h y → const (type-trunc-Prop (fiber f y)) (h y))
           ( is-equiv-map-Π-is-fiberwise-equiv
             ( λ y →
-              is-equiv-diagonal-is-contr
+              is-equiv-diagonal-exponential-is-contr
```
Comment (EgbertRijke) [inline src/foundation/surjective-maps.lagda.md:326]: The proofs of being an equivalence use `is-equiv-diagonal-exponential-is-contr`, so it would be natural to also show `diagonal-exponential` maps in the constructions of those functions, eg as follows:

```
  abstract
    dependent-universal-property-surj-is-surjective :
      is-surjective f → dependent-universal-property-surj
    dependent-universal-property-surj-is-surjective is-surj-f P =
      is-equiv-comp
        ( λ h x → h (f x) (x , refl))
        ( ( λ h y → (h y) ∘ unit-trunc-Prop) ∘
          ( λ h →
          postcomp-Π _
            ( λ {y} →
              diagonal-exponential
                ( type-trunc-Prop (fiber f y))
                ( type-Prop (P y)))
            ( h)))
        ( is-equiv-comp
          ( λ h y → (h y) ∘ unit-trunc-Prop)
          ( λ h →
            postcomp-Π _
              ( λ {y} →
                diagonal-exponential
                  ( type-trunc-Prop (fiber f y))
                  ( type-Prop (P y)))
              ( h))
          ( is-equiv-map-Π-is-fiberwise-equiv
            ( λ y →
              is-equiv-diagonal-is-contr
                ( is-proof-irrelevant-is-prop
                  ( is-prop-type-trunc-Prop)
                  ( is-surj-f y))
                ( type-Prop (P y))))
          ( is-equiv-map-Π-is-fiberwise-equiv
            ( λ b → is-propositional-truncation-trunc-Prop (fiber f b) (P b))))
        ( universal-property-family-of-fibers-fiber f (is-in-subtype P))
```

Note: I'm not using the suggestion functionality here, because github doesn't allow me to select the entire piece of code and make a suggestion about it, because it contains deleted code.

File: src/foundation/surjective-maps.lagda.md [hunk 2]
```diff
@@ -306,7 +306,7 @@ module _
       ( λ (h : (y : B) → type-Prop (P y)) x → h (f x)) ~
       ( ( λ h x → h (f x) (x , refl)) ∘
         ( λ h y → (h y) ∘ unit-trunc-Prop) ∘
-        ( λ h y → const (type-trunc-Prop (fiber f y)) (type-Prop (P y)) (h y)))
+        ( λ h y → const (type-trunc-Prop (fiber f y)) (h y)))
```
Comment (EgbertRijke) [inline src/foundation/surjective-maps.lagda.md:309]: The proofs below of being an equivalence use `is-equiv-diagonal-exponential-is-contr`, so it would be natural to also use `diagonal-exponential` maps in this definition, eg as follows:

```
  abstract
    square-dependent-universal-property-surj :
      {l3 : Level} (P : B → Prop l3) →
      ( λ (h : (y : B) → type-Prop (P y)) x → h (f x)) ~
      ( ( λ h x → h (f x) (x , refl)) ∘
        ( λ h y → (h y) ∘ unit-trunc-Prop) ∘
        ( λ h →
          postcomp-Π _
            ( λ {y} → diagonal (type-trunc-Prop (fiber f y)) (type-Prop (P y)))
            ( h)))
    square-dependent-universal-property-surj P = refl-htpy
```

**Review by EgbertRijke — COMMENTED** [review]
some minor comments

File: src/foundation/surjective-maps.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation/surjective-maps.lagda.md:309]: Thanks! Since I'm already editing this file. Is it okay if I change `surj` to `surjection`?

Comment (EgbertRijke) [reply src/foundation/surjective-maps.lagda.md:309]: Wouldn't that make more sense in another pull request, if you have not already done it locally here? I don't want to make you undo any work, but if you haven't made that change yet then my preference would be that it goes in another PR, so that we can stay on topic here. Otherwise it is ok if you do it here.

Comment (fredrik-bakke) [reply src/foundation/surjective-maps.lagda.md:309]: I haven't 👍

File: src/foundation/surjective-maps.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/surjective-maps.lagda.md:326]: Thanks! Note that `diagonal-exponential` takes arguments in the opposite order of what `const` used to. First it takes the base type, and then the exponent, since this seems to me most natural. I thought I could mention it in case you have objections to that decission.

**Comment by fredrik-bakke** [comment]
Sorry for the delay. I implemented your suggestions now.

File: src/foundation/diagonal-maps-of-types.lagda.md [hunk 3]
```diff
@@ -2,116 +2,81 @@
...
+    htpy-eq ∘ ap (diagonal-exponential A B) ~ diagonal-exponential (x ＝ y) B
+  htpy-diagonal-exponential-Id-ap-diagonal-exponential-htpy-eq refl = refl
+
+  htpy-ap-diagonal-exponential-htpy-eq-diagonal-exponential-Id :
+    diagonal-exponential (x ＝ y) B ~ htpy-eq ∘ ap (diagonal-exponential A B)
+  htpy-ap-diagonal-exponential-htpy-eq-diagonal-exponential-Id =
+    inv-htpy htpy-diagonal-exponential-Id-ap-diagonal-exponential-htpy-eq
+```
+
+### Given a term of the exponent the diagonal map is injective
```
Comment (EgbertRijke) [inline src/foundation/diagonal-maps-of-types.lagda.md:68]:
```suggestion
### Given an element of the exponent the diagonal map is injective
```
